US08084483B2
A solution of 5-bromo-4-(4-cyclopropylnaphthalen-1-yl)-4H-1,2,4-triazole-3-thiol (100 mg, 0.289 mmol), ethyl 1-bromocyclobutanecarboxylate (47 μL, 0.289 mmol) and diisopropylethylamine (151 μL, 0.866 mmol) in DMF (1 mL) was heated at 60° C. for 4 days. After cooling to room temperature, the mixture was concentrated and partitioned between dichloromethane (15 mL) and HCl (1N aqueous, 15 mL). The aqueous layer was extracted with dichloromethane (2×15 mL) and the combined organic extracts dried over sodium sulfate, concentrated and purified by column chromatography (40% EtOAc/hexanes) to provide ethyl 1-(5-bromo-4-(4-cyclopropylnaphthalen-1-yl)-4H-1,2,4-triazol-3-ylthio)cyclobutanecarboxylate as a light yellow sticky foam (75 mg, 55% yield).

reactant | 5-bromo-4-(4-cyclopropylnaphthalen-1-yl)-4H-1,2,4-triazole-3-thiol | 0.289 mmol, 100 mg | BrC=1N(C(=NN1)S)C1=CC=C(C2=CC=CC=C12)C1CC1 | C15H12BrN3S
reactant | ethyl 1-bromocyclobutanecarboxylate | 0.289 mmol, 47 μL | BrC1(CCC1)C(=O)OCC | C7H11BrO2
reactant | diisopropylethylamine | 0.866 mmol, 151 μL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | ethyl 1-(5-bromo-4-(4-cyclopropylnaphthalen-1-yl)-4H-1,2,4-triazol-3-ylthio)cyclobutanecarboxylate | 75 mg, 55% yield | BrC=1N(C(=NN1)SC1(CCC1)C(=O)OCC)C1=CC=C(C2=CC=CC=C12)C1CC1 | C22H22BrN3O2S
